Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p ___
 
Major Surgical or Invasive Procedure:
___: Repair of facial lacerations by Plastic Surgery

 
History of Present Illness:
Patient is a ___ male presenting to ED after ___. Patient was the 
unrestrained
driver of a motor vehicle which was struck by a truck head-on 
traveling roughly 20 mph. Patient struck the windshield of his 
car, spidering of glass, no loss of consciousness, ambulatory at 
scene. Patient endorses drinking "1 nip" earlier today but 
denies any additional drug or alcohol ingestion.
 
Past Medical History:
history of BPH, alcohol abuse, tobacco abuse, and ASA 81 daily 
(Headaches) presenting today following motor vehicle accident. 
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Temp: 97.5 HR: 90 BP: 164/102 Resp: 18 O(2)Sat: 97
Constitutional: C-spine collar and backboard
HEENT: Right 2 cm cheek laceration left 3 cm cheek
laceration left ear laceration 0.5 cm
Neck is nontender, cervical collar in place
Chest: Clear to auscultation CTA. Chest wall is nontender
with AP and lateral compression. No chest wall deformities.
No ecchymosis.
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
Extr/Back:   Back: Nontender
Extremities:
Nontender, no evidence of trauma. Neurovascular intact.
Normal pulses.
Pelvis: Stable.
Neuro: Speech fluent A/O X 3
CN ___ intact
Normal sensory, normal motor.
downgoing toes, DTRs normal
___: Normal mood
 
Discharge Physical Exam:
VS: 97.6, 156/86, 83, 18, 99 Ra
Gen: A&O x3, ambulatory around unit.
HEENT: Facial lacerations have been sutured
Lungs: Clear bilaterally
CV: Regular rate and rhythm
Abd: Soft, nontender, nondistended
Ext: No peripheral edema

 
 
Pertinent Results:
___ 08:04AM BLOOD WBC-9.3 RBC-4.57* Hgb-14.4 Hct-43.7 
MCV-96 MCH-31.5 MCHC-33.0 RDW-13.3 RDWSD-47.3* Plt ___
___ 03:19PM BLOOD WBC-10.0 RBC-4.79 Hgb-15.0 Hct-45.5 
MCV-95 MCH-31.3 MCHC-33.0 RDW-13.4 RDWSD-47.3* Plt ___
___ 03:19PM BLOOD Neuts-70.5 ___ Monos-5.6 Eos-1.3 
Baso-0.4 Im ___ AbsNeut-7.03* AbsLymp-2.16 AbsMono-0.56 
AbsEos-0.13 AbsBaso-0.04
___ 08:04AM BLOOD Glucose-102* UreaN-17 Creat-1.0 Na-142 
K-4.2 Cl-105 HCO3-25 AnGap-12
___ 08:04AM BLOOD Calcium-9.4 Phos-3.3 Mg-1.8
___ 03:19PM BLOOD ___

___. No acute intracranial hemorrhage or fracture. 
2. Left frontal scalp laceration containing multiple punctate 
foreign bodies. 

___ C-Spine CT:
No evidence of acute fracture or traumatic malalignment 

___ CT Sinus/Mandible/Maxillofacial:
1. No acute fractures. 
2. Laceration overlying the left zygomatic arch with a couple of 
punctate 
foreign bodies in the subcutaneous soft tissues. 
3. 5 mm foreign body is also seen within the subcutaneous soft 
tissues of the left temple. 
4. Extensive periapical lucencies involving multiple teeth 
reflective of 
periodontal disease and correlation with dental exam is 
suggested. 

___ CT Abdomen / Pelvis:
1. Small left pneumothorax. 
2. Acute nondisplaced left sixth and eleventh rib fractures. 
3. Ill-defined linear hypodensities along the splenic hilum 
compatible with laceration in the setting of trauma. 
4. No free air or free fluid in the abdomen or pelvis. 
5. Four hyperdense oval structures within the bladder suggestive 
of bladder calculi. 
6. The urinary bladder wall is thickened likely secondary to 
chronic outlet obstruction in the setting of marked 
prostatomegaly. 
7. 2.8 cm left renal cyst with a few thin enhancing septations. 

___ CXR:
Persistent small apical pneumothorax

 
Brief Hospital Course:
___ year old male presenting to ED after unrestrained MVC. The 
patient was hemodynamically stable. Imaging notable for multiple 
facial lacerations, a small splenic laceration, rib fractures 
and small pneumothorax. Labs notable for an ethanol level of 
112. Plastic Surgery was consulted, washed out and repaired the 
facial lacerations. They recommended Keflex for 3 days, 
bacitracin for 2 weeks and follow- up in the ___ clinic for 
suture removal. They also recommended The patient was admitted 
for observation. Repeat chest x-ray on HD2 was stable with no 
expanding pneumothorax. 

Pain was well controlled. Diet was progressively advanced as 
tolerated to a regular diet with good tolerability. The patient 
voided without problem. During this hospitalization, the patient 
ambulated early and frequently, was adherent with respiratory 
toilet and incentive spirometry, and actively participated in 
the plan of care. The patient received subcutaneous heparin and 
venodyne boots were used during this stay. The patient was seen 
by social work. Tertiary was negative. He was ambulating 
independently and did not need a ___ evaluation. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
Tamsulosin 0.4 mg PO QHS  
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  Bacitracin Ointment 1 Appl TP BID facial lacs 
RX *bacitracin zinc 500 unit/gram apply to facial lacerations 
twice a day Disp #*20 Packet Refills:*0 
3.  Cephalexin 500 mg PO QID Duration: 3 Days 
RX *cephalexin 500 mg 1 tablet(s) by mouth four times a day Disp 
#*12 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
5.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine [Aspercreme (lidocaine)] 4 % 1 patch to left rib 
cage once a day Disp #*14 Patch Refills:*0 
6.  Senna 17.2 mg PO HS 
RX *sennosides [senna] 8.6 mg 2 tablet(s) by mouth at bedtime 
Disp #*20 Tablet Refills:*0 
7.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Small left pneumothorax. 
2. Acute nondisplaced left sixth and eleventh rib fractures. 
3. Splenic laceration
4. Multiple simple facial lacerations 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after a motor vehicle collision. You 
were found to have several fractured ribs, a small lung injury 
and a laceration to your spleen as well as several facial 
lacerations. Your blood levels have remained stable and your 
chest x-rays show the lung injury is also stable and not getting 
worse. Plastic Surgery saw you and repaired the facial 
lacerations. You should continue to use bacitracin twice a day 
for 5 days and use sunscreen (SPF 30) for at least ___ year. You 
are now medically cleared for discharge home to continue your 
recovery. 

Spleen lacerations:

*AVOID contact sports and/or any activity that may cause injury 
to your abdominal area for the next ___ weeks.
 
*If you suddenly become dizzy, lightheaded, feeling as if you 
are going to pass out go to the nearest Emergency Room as this 
could be a sign that you are having internal bleeding from your 
liver or spleen injury.
 
*AVOID any blood thinners such as Motrin, Naprosyn, Indocin, 
Aspirin, Coumadin or Plavix for at least ___ days unless 
otherwise instructed by the MD/NP/PA.

Rib Fractures:

* Your injury caused rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___